US06348474B1
1-((tert-Butyldiphenylsilyloxy)methyl)-2-chloro-4-(n-pentyl)benzene
Then, 1-iodopentane (910 mg) was added to a suspension of copper bromide-dimethyl sulfide complex (62 mg) in hexamethylphosphoric triamide (0.3 ml) under a nitrogen atmosphere, and the mixture was heated to 60° C. Thereto was dropwise added the above-mentioned solution (5 ml) of 4-((tert-butyldiphenylsilyloxy)methyl)-3-chlorophenyl magnesium bromide in tetrahydrofuran over 10 min after removal of unreacted magnesium. After completion of the dropwise addition, the reaction mixture was refluxed under heating for 2 hr. Aqueous ammonium chloride was added to the reaction mixture and the resulting product was extracted three times with hexane. The organic layers were combined, washed successively with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was subjected to silica gel column chromatography (hexane) to give the objective compound (914 mg) as a colorless oil.

reactant | 1-iodopentane | 910 mg | ICCCCC | C5H11I
reactant | 4-((tert-butyldiphenylsilyloxy)methyl)-3-chlorophenyl magnesium bromide | 5 ml | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C=C(C=C1)[Mg]Br)Cl
solvent | hexamethylphosphoric triamide | 0.3 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-((tert-Butyldiphenylsilyloxy)methyl)-2-chloro-4-(n-pentyl)benzene | 914 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C=C(C=C1)CCCCC)Cl | C28H35ClOSi
